US07501411B2
Step 2: 4-(4-Isopropyl-piperazin-1-yl)-phenylamine
1-Isopropyl-4-(4-nitro-phenyl)-piperazine (8.3 g, 33.2 mmol) is dissolved in MeOH (120 mL) and tin (II) dichloride dihydrate (37.4 g, 0.165 mol) is added. The mixture is cooled using a water bath and conc. HCl is added (36 mL). The reaction is stirred at room temperature overnight. After removing the methanol, the resultant solution is basified using conc. NaOH (pH 11). The water phase is extracted with diethyl ether (3×) and the organic layers combined, dried over MgSO4, filtered, concentrated in vacuo to afford the title compound (6.4 g, 88%).

reactant | 1-Isopropyl-4-(4-nitro-phenyl)-piperazine | 33.2 mmol, 8.3 g | C(C)(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O2
reactant | tin (II) dichloride dihydrate | 0.165 mol, 37.4 g | O.O.[Sn](Cl)Cl
reactant | HCl | Cl | ClH
solvent | MeOH | 120 mL | CO | CH4O
product | 4-(4-Isopropyl-piperazin-1-yl)-phenylamine | 6.4 g, 88% | C(C)(C)N1CCN(CC1)C1=CC=C(C=C1)N | C13H21N3
